US05173485
5-Aminopyrazole (10 g) and 1,3-dibromopropane (13.4 ml) were added to 1,4-dioxane (20 ml) under stirring at ambient temperature. Triethylamine (40.1 ml) was added thereto. The mixture was refluxed under stirring for 4 hours. The reaction mixture was cooled to 0°-5° C. in an ice-bath and stirred for 30 minutes. An insoluble material was filtered off, and the filtrate was evaporated under reduced pressure to give 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (5.1 g).

reactant | 5-Aminopyrazole | 10 g | NC1=CC=NN1 | C3H5N3
reactant | 1,3-dibromopropane | 13.4 ml | BrCCCBr | C3H6Br2
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | Triethylamine | 40.1 ml | C(C)N(CC)CC | C6H15N
product | 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 5.1 g | N1=CC=C2N1CCCN2 | C6H9N3
